US06340759B1
To the resulting 1-(4-formylpiperazin-1-yl)-3-[4-(propylsulfonyl)phenyl]isoquinoline (0.72 g) were added ethanol (25 ml) and a 8N aqueous solution of sodium hydroxide (1.06 ml), and the mixture was heated under reflux in nitrogen atmosphere for 1.5 hr. The solvent was evaporated, and to the resulting residue were added water and ethyl acetate. The organic layer was separated. Then, it was washed with brine, and dried over magnesium sulfate. The solvent was evaporated, to give 1-(piperazin-1-yl)-3-[4-(propylsulfonyl)phenyl]isoquinoline (0.61 g) as a colorless powder.

reactant | 1-(4-formylpiperazin-1-yl)-3-[4-(propylsulfonyl)phenyl]isoquinoline | 0.72 g | C(=O)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)CCC | C23H25N3O3S
reactant | sodium hydroxide | 1.06 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(piperazin-1-yl)-3-[4-(propylsulfonyl)phenyl]isoquinoline | 0.61 g | N1(CCNCC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)CCC | C22H25N3O2S
